US08669234B2
4-Difluoromethoxymethyl-pyrrolidine-1,2-dicarboxylic acid 2-[2-(4-bromo-phenyl)-2-oxo-ethyl]ester 1-tert-butyl ester:
4-Difluoromethoxymethyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (398 mg, 1.29 mmol) was dissolved in MeOH (8 mL) and LiOH (1 M in H2O, 2 mL, 2 mmol) was added. After stirring at RT for 5 h, the MeOH was removed under reduced pressure. The aqueous solution was poured into a separatory funnel, diluted with 1 M HCl (2 mL, 2 mmol) and extracted with DCM (3×). The combined organics were dried over MgSO4, filtered and concentrated. The residue was dissolved in MeCN (4 mL) and treated with 2,4′-dibromoacetophenone (200 mg, 0.719 mmol), and triethylamine (0.100 mL, 0.719 mmol). After stirring for 15 h, the solvent was removed. The crude residue was purified by silica column chromatography (10% to 35% EtOAc/Hex) to afford the title compound (303 mg, 94%).

reactant | 4-Difluoromethoxymethyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 1.29 mmol, 398 mg | COC(=O)C1N(CC(C1)COC(F)F)C(=O)OC(C)(C)C | C13H21F2NO5
reactant | LiOH | 2 mmol, 1 M, 2 mL | [Li+].[OH-]
reactant | HCl | 2 mmol, 1 M, 2 mL | Cl | ClH
reactant | 2,4′-dibromoacetophenone | 0.719 mmol, 200 mg | BrCC(=O)C1=CC=C(C=C1)Br | C8H6Br2O
reactant | triethylamine | 0.719 mmol, 0.100 mL | C(C)N(CC)CC | C6H15N
solvent | MeOH | 8 mL | CO | CH4O
product | 4-Difluoromethoxymethyl-pyrrolidine-1,2-dicarboxylic acid 2-[2-(4-bromo-phenyl)-2-oxo-ethyl]ester 1-tert-butyl ester | 303 mg, 94% | C(C)(C)(C)OC(=O)N1C(CC(C1)COC(F)F)C(=O)OCC(=O)C1=CC=C(C=C1)Br | C20H24BrF2NO6
